US08048899B2
To a solution of 224 g (0.83 mol) of toluene-4-sulfonic acid tetrahydro-pyran-4-ylmethyl ester in methyl isobutylketone (1.6 L) are added 189 g (1.66 mol) of potassium thioacetate. The beige suspension is stirred at 70° C. for 4.5 h. The reaction mixture is cooled to room temperature and water (1.8 L) is added. The organic layer is washed with 10% aqueous K2CO3 solution (1.8 L) and water (1 L). The organic layer is filtered through Celite® (20 g), activated charcoal (20 g) and Na2SO4 (20 g) and the filtrate is concentrated under reduced pressure. The residual oil is azeotroped with methylcyclohexane (200 mL) and n-heptanes (250 mL) to afford 138 g of thioacetic acid S-(tetrahydro-pyran-4-ylmethyl) ester as a yellow-orange oil (CAUTION: Stench!). Yield: 96%; ES-MS: m/z 175 [M+H]; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.23-1.40 (2H, m), 1.59-1.78 (3H, m), 2.33 (3H, d, J=4.16 Hz), 2.82 (2H, dd, J=6.24, 3.79 Hz), 3.27-3.39 (2H, m), 3.88-4.02 (2H, m)

reactant | toluene-4-sulfonic acid tetrahydro-pyran-4-ylmethyl ester | 0.83 mol, 224 g | O1CCC(CC1)COS(=O)(=O)C1=CC=C(C=C1)C | C13H18O4S
reactant | potassium thioacetate | 1.66 mol, 189 g | C(C)(=S)[O-].[K+]
reactant | water | 1.8 L | O | H2O
solvent | methyl isobutylketone | 1.6 L | CC(=O)CC(C)C | C6H12O
product | thioacetic acid S-(tetrahydro-pyran-4-ylmethyl) ester | 138 g, Yield: 96% | O1CCC(CC1)CSC(C)=O | C8H14O2S
